US07521446B2
Methyl (4S)-4-[(tert-butoxy)carbonylamino]-5-[(4-methylphenyl) sulfonyloxy]pentanoate
Methyl (4S)-4-[(tert-butoxy)carbonylamino]-5-hydroxypentanoate (9.11 mmol, 2.25 g) was dissolved in 30 mL of methylene chloride. p-Toluenesulfonyl chloride (9.1 mmol, 1.7 g) and triethylamine (27.33 mmol, 3.8 mL) were added and the reaction was stirred at room temperature overnight. Solvent was removed in vacuo and crude was purified by column chromatography (SiO2, 4:1 n-hexanes/ethyl acetate to 7:3 n-hexanes/ethyl acetate) to yield the title compound (1.98 g, 54% yield). ES-MS: 402 (M+1).

reactant | Methyl (4S)-4-[(tert-butoxy)carbonylamino]-5-hydroxypentanoate | 9.11 mmol, 2.25 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC)CO | C11H21NO5
reactant | p-Toluenesulfonyl chloride | 9.1 mmol, 1.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 27.33 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | Methyl (4S)-4-[(tert-butoxy)carbonylamino]-5-[(4-methylphenyl) sulfonyloxy]pentanoate | 1.98 g, 54% yield | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO7S
